US06706709B2
A mixture of 5-bromoindole-2-carboxylic acid ethyl ester (2.68 g, 10 mmol), tert-butyl acrylate (4.4 mL, 30 mmol) and dichlorobis(triphenylphosphine)palladium(II) (0.7 g, 1 mmol) and triethylamine (17 mL) in acetic acid (17 mL) was heated at 120° C. in a closed vessel for 6 hrs. The cooled reaction mixture was poured into water and dichloromethane. The biphasic mixture was filtered through a pad of celite and the aqueous layer was extracted with dichloromethane (2×). The combined organic layers were washed with saturated sodium bicarbonate solution, brine, dried and concentrated. The residue was purified by column chromatography (10% of ethyl acetate in hexanes) to give 900 mg (28%) of 5-(2-tert-butoxycarbonyl-vinyl)-1H-indole-2-carboxylic acid ethyl ester.

reactant | 5-bromoindole-2-carboxylic acid ethyl ester | 10 mmol, 2.68 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | tert-butyl acrylate | 30 mmol, 4.4 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 17 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetic acid | 17 mL | C(C)(=O)O | C2H4O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1 mmol, 0.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(2-tert-butoxycarbonyl-vinyl)-1H-indole-2-carboxylic acid ethyl ester | 900 mg, 28% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C=CC(=O)OC(C)(C)C | C18H21NO4
